US03939276
2-Butylfluorene (6.1 g.) was acetylated exactly as described for 2-ethylfluorene in the preceding Example 21, using acetic anhydride (3.08 g.) and aluminium chloride (8.66 g.) in dichloroethane. The product was recrystallised from light petroleum to give 2-acetyl-7-butylfluorene, m.p. 102° 104.5°. This product (1.98 g.) was oxidised with sodium hypobromite (from 7.23 g. of bromine and 4.52 g. sodium hydroxide in 160 ml. water) exactly as described for 2-acetyl-7-ethylfluorene in the preceding Example. The 7-butylfluorenone-2-carboxylic acid thus isolated had m.p. > 300° and was homogeneous by thin layer chromatography.

reactant | 2-Butylfluorene | 6.1 g | C(CCC)C1=CC=2CC3=CC=CC=C3C2C=C1 | C17H18
reactant | 2-ethylfluorene | C(C)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H14
reactant | acetic anhydride | 3.08 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | aluminium chloride | 8.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-acetyl-7-butylfluorene | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)CCCC | C19H20O
